US06262319B1
Preparation of 1-(p-Chlorophenyl)-1- [2-fluoro-3-(4-fluoro-3-phenoxyphenyl)propenyl]cyclopropane, (Z)—
Under a nitrogen atmosphere, a mixture of 1-(p-chlorophenyl)-1-(3-bromo-2-fluoropropenyl)cyclopropane, (Z)—(0.434 g, 1.5 mmol), 4-fluoro-3-phenoxybenzene-boronic acid (0.452 g, 1.95 mmol), potassium carbonate (1.86 g, 13.5 mmol) and bis(dibenzylideneacetone)-palladium(O) (Pd(dba)2, 4.3 mg, 0.075 mmol) in toluene is heated at 80° C. for one hour, cooled to room temperature, diluted with water, and filtered through diatomaceous earth. The phases are separated and the aqueous phase is extracted with ethyl acetate. The organic phase and ethyl acetate extract are combined, washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain a residue. Flash column chromatography of the residue using silica gel and a 3:20 methylene chloride/hexanes solution gives the title product as an oil (0.274 g, 63% yield) which is identified by NMR spectral analyses.

reactant | 1-(p-chlorophenyl)-1-(3-bromo-2-fluoropropenyl)cyclopropane | ClC1=CC=C(C=C1)C1(CC1)C=C(CBr)F | C12H11BrClF
reactant | 4-fluoro-3-phenoxybenzene-boronic acid | 1.95 mmol, 0.452 g | FC1=C(C=C(C=C1)B(O)O)OC1=CC=CC=C1 | C12H10BFO3
reactant | potassium carbonate | 13.5 mmol, 1.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-(p-Chlorophenyl)-1- [2-fluoro-3-(4-fluoro-3-phenoxyphenyl)propenyl]cyclopropane | 0.274 g, 63% yield | ClC1=CC=C(C=C1)C1(CC1)C=C(CC1=CC(=C(C=C1)F)OC1=CC=CC=C1)F | C24H19ClF2O
